US06228979B1
Preparation of 5-Acetyl-5-methyl-1,3-dioxan-2-one (1)
In a one liter three neck flask equipped with a mechanical stirrer and under nitrogen were added triphosgene (37.0 g), 3,3 dihydroxyethyl-2-butanone (50 g) and THF (300 mL). The resulting mixture was stirred until a homogeneous solution resulted. This homogeneous solution was cooled to −78° C. Triethylamine (75.0 g) was added to the this solution over 30 min. The cold bath was removed and the reaction allowed to warm to room temperature. After stirring for one hour at room temperature the triethylamine/HCl salt was removed by filtration and the filtrate pass through a silica gel plug. The solvent was removed under reduced pressure resulting in an off white product. This product was then washed with hot ether giving a white solid. NMR analysis indicated that the product contained a small amount of triethylamine/HCl salt, thus the material was dissolved in dichloromethane and washed with water affording 15.02 g of material. 1H NMR (CDCl3) ppm: 4.70 (ab doublet, 2H), 4.20 (ab doublet, 2H), 2.3 (S, 3H), 1.25 (S, 3H).

reactant | triphosgene | 37.0 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 3,3 dihydroxyethyl-2-butanone | 50 g | OC(C(CCC)=O)(C)O | C6H12O3
reactant | THF | 300 mL | C1CCOC1 | C4H8O
solvent | Triethylamine | 75.0 g | C(C)N(CC)CC | C6H15N
product | 5-Acetyl-5-methyl-1,3-dioxan-2-one | C(C)(=O)C1(COC(OC1)=O)C | C7H10O4
